US07226923B2
7-Amino-2-Isopropyl-4-bromo-2H-phthalazin-1-one
7-Nitro-2-Isopropyl-4-bromo-2H-phthalazin-1-one (4.6 g, 0.015 mol) was dissolved in a 5:1 mixture of ethanol and water (150 ml). To this solution was added iron powder (2.14 g, 0.039 mol) and concentrated hydrochloric acid (1 ml), the mixture was heated to 80° C. for three hours. After this time, the reaction mixture was cooled to room temperature and filtered through a pad of celite, the celite was washed with ethanol (100 ml), and the solution was concentrated under vacuum to give the title compound (4.2 g, 98% yield) as a white solid.

reactant | 7-Nitro-2-Isopropyl-4-bromo-2H-phthalazin-1-one | 0.015 mol, 4.6 g | [N+](=O)([O-])C1=CC=C2C(=NN(C(C2=C1)=O)C(C)C)Br | C11H10BrN3O3
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
catalyst | iron | 0.039 mol, 2.14 g | [Fe] | Fe
product | 7-Amino-2-Isopropyl-4-bromo-2H-phthalazin-1-one | 4.2 g, 98% yield | NC1=CC=C2C(=NN(C(C2=C1)=O)C(C)C)Br | C11H12BrN3O
